US07514566B2
To a 250 mL round-bottom flask was added 5-bromo-2-fluorobenzonitrile (15.54 g, 77.7 mmol) and hydrazine (124 g, 3885 mmol). The reaction mixture was heated to 100° C. for 5 minutes. The hydrazine was then removed under reduced pressure to give 5-bromo-1H-indazol-3-amine (16.4 g, 99.5% yield). MS m/z: 213 (M+1).

reactant | 5-bromo-2-fluorobenzonitrile | 77.7 mmol, 15.54 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | hydrazine | 3885 mmol, 124 g | NN | H4N2
product | 5-bromo-1H-indazol-3-amine | 16.4 g, 99.5% yield | BrC=1C=C2C(=NNC2=CC1)N | C7H6BrN3
